* D:\Users\denis\OneDrive\Escritorio\-\Estudios\Facultad\Actuales\Taller de diseño de circuitos electrónicos\dce-g5-proyecto_integrador\Regulador_Lineal_version4.asc
Q1 N001 N001 P001 0 TIP42C
Q2 N003 N001 P002 0 TIP42C
Q3 N001 Vref N004 0 TIP41C
Q4 N003 Vf N004 0 TIP41C
Q5 Vo N002 VIN 0 TIP42C
Q6 N002 N003 Vo 0 TIP41C
R5 Vo Vf 3.9k
R6 Vf 0 2.2k
RL Vo 0 {RL}
V1 Vref 0 {VREFDC} AC {VREFAC}
VIN VIN 0 {VINDC} AC {VINAC}
R8 VIN P001 {RE}
R9 VIN P002 {RE}
C3 Vo 0 1µ
Q7 N005 N005 0 0 TIP41C
Q8 N004 N005 0 0 TIP41C
R2 VIN N005 3.3k
.model NPN NPN
.model PNP PNP
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.param VINDC 6.35
.param VINAC 1
.param VREFDC 1.2
.param VREFAC 0
.param RL 10
;dc VIN 4 24
;.step param RE 1k 5k 100
.param RE 2.7k
;.step param RL 1k 5 10
* Mido regulacion de linea
.meas DC Vo1rl FIND V(Vo) AT=12
.meas DC Vo2rl FIND V(Vo) AT=24
.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/12)
* Mido regulacion de carga
.meas OP Vo1rc FIND V(Vo) AT 100
.meas OP Vo2rc FIND V(Vo) AT 5
.meas OP Io1rc FIND I(RL) AT 100
.meas OP Io2rc FIND I(RL) AT 5
* Mido eficiencia
* -100*((V(vo)*I(RL))/(V(VIN)*I(VIN)))
.meas OP RegCar PARAM (-(Vo2rc-Vo1rc)/(Io2rc-Io1rc))
.MODEL TIP42C PNP(Is=66.19f Xti=3 Eg=1.11 Vaf=100 Bf=137.6 Ise=862.2f Ne=1.481 Ikf=1.642 Nk=.5695 Xtb=2 Br=5.88 Isc=273.5f Nc=1.24 Ikr=3.555 Rc=79.39m Cjc=870.4p Mjc=.6481 Vjc=.75 Fc=.5 Cje=390.1p Mje=.4343 Vje=.75 Tr=235.4n Tf=23.21n Itf=71.33 Xtf=5.982 Vtf=10 Rb=.1 Vceo=100 Icrating=6 mfg=Texas)
.MODEL TIP41C NPN (IS=7.55826e-11 BF=260.542 NF=1.11221 VAF=100 IKF=0.526814 ISE=1e-08 NE=2.18072 BR=26.0542 NR=1.5 VAR=1000 IKR=3.54059 ISC=1e-08 NC=1.63849 RB=4.56157 IRB=0.1 RBM=0.1 RE=0.0162111 RC=0.0810556 XTB=0.1 XTI=1 EG=1.206 CJE=1.93296e-10 VJE=0.4 MJE=0.259503 TF=1e-08 XTF=4.06972 VTF=7.1157 ITF=0.001 CJC=1.09657e-10 VJC=0.730921 MJC=0.23 XCJC=0.803085 FC=0.8 TR=9.01013e-08 PTF=0 Vceo=100 ICrating=6 mfg=ON_Semi)
.backanno
.end
